US04032544
(c) 3-Cyanomethylene-5,6-dimethyl phthalide
2-Azido-6,7-dimethyl naphtho-1,4-quinone (2.0 g) was added in small portions (10 mg) to cold (0°-5° C.), vigorously stirred concentrated sulphuric acid (30 ml. over 11/2 hours and the red solution stirred a further 10 minutes at 3° C. until nitrogen evolution ceased. Poured onto ice-water (400 g) whereby the phthalide separated as a whitish solid. After recrystallisation from ethanol in the presence of charcoal the white solid had m.p. 165°-181° C. (mixture of E and Z isomers). (Found; C, 72.10; H, 4.77; N, 6.91; C12H9NO2 requires; C, 72.35; H, 4.55; N, 7.03%).

reactant | 2-Azido-6,7-dimethyl naphtho-1,4-quinone | 2.0 g | N(=[N+]=[N-])C=1C(=O)C2=CC(=C(C=C2C(C1)=O)C)C | C12H9N3O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
product | 3-Cyanomethylene-5,6-dimethyl phthalide | C(#N)C=C1OC(=O)C2=CC(=C(C=C12)C)C | C12H9NO2
